US04517202
By proceeding in a manner similar to that described in Reference Example 48, but replacing the starting material by the appropriate quantity of 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one, prepared as described in Reference Example 53, and in the form of (±)-6β-[(E)-(mixture of 3α and 3β)-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one, there was prepared 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, in the form of (±)-6β-[(E)-(mixture of 3α and 3β)-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S), [mixture of (15R) and (15S)]-6a-oxo-6,9-methano-15-tert-butyldimethylsilyloxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate.

reactant | 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CC(C(C2CC1)=O)C(CCCC(=O)OC)O)COC1=CC=CC=C1 | C30H46O6Si
reactant | 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)COC1=CC=CC=C1 | C30H44O5Si
reactant | 3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | COC(=O)CCC\C=C/1\C(C2CCCC2C1)=O | C14H20O3
product | 3-(1-hydroxy-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one | OC(CCCC(=O)OC)C1C(C2CCCC2C1)=O | C14H22O4
